US04361511
108.9 g (0.316 mol) of rac-5-(o-chlorophenyl)-1,3-dihydro-1,3-dimethyl-7-nitro-2H-1,4-benzodiazepin-2-one are dissolved in 750 ml of concentrated hydrochloric acid. 215 g (0.95 mol) of stannous chloride are added portionwise to the solution while cooling with ice and stirring and the mixture is stirred at room temperature for 3 hours. The mixture is subsequently neutralised at 0° C. with 10 N sodium hydroxide and the aqueous phase is extracted with methylene chloride/ethanol (4:1). The organic phase is washed with water, dried and evaporated. Recrystallisation of the residue from ethyl acetate/petroleum ether yields rac-7-amino-5-(o-chlorophenyl)-1,3-dihydro-1,3-dimethyl-2H-1,4-benzodiazepin-2-one of melting point 180° C.

reactant | rac-5-(o-chlorophenyl)-1,3-dihydro-1,3-dimethyl-7-nitro-2H-1,4-benzodiazepin-2-one | 0.316 mol, 108.9 g | ClC1=C(C=CC=C1)C1=NC(C(N(C2=C1C=C(C=C2)[N+](=O)[O-])C)=O)C | C17H14ClN3O3
reactant | sodium hydroxide | 10 N | [OH-].[Na+]
solvent | hydrochloric acid | 750 ml | Cl | ClH
product | rac-7-amino-5-(o-chlorophenyl)-1,3-dihydro-1,3-dimethyl-2H-1,4-benzodiazepin-2-one | NC=1C=CC2=C(C(=NC(C(N2C)=O)C)C2=C(C=CC=C2)Cl)C1 | C17H16ClN3O
